### PR TITLE
Add properties relating Vec.lookup to head and tail

### PR DESCRIPTION
**Pull request by Taneb**
_Really_ surprised these didn't already exist!

### CODE REVIEW

File: src/Data/Vec/Properties.agda [hunk 1]
```diff
@@ -224,6 +224,12 @@ lookup⇒[]= (suc i) (_ ∷ xs) p    = there (lookup⇒[]= i xs p)
   []=⇒lookup∘lookup⇒[]= (x ∷ xs) zero    refl = refl
   []=⇒lookup∘lookup⇒[]= (x ∷ xs) (suc i) p    = []=⇒lookup∘lookup⇒[]= xs i p
 
+lookup-head : lookup xs zero ≡ head xs
+lookup-head {xs = x ∷ xs} = refl
```
Comment (jamesmckinna) [inline src/Data/Vec/Properties.agda]:
```suggestion
lookup-head {xs = _ ∷ _} = refl
```
Questions:
* will `xs` be inferrable at potential use-sites, or should it be explicitly quantified?
* how much do you anticipate this being used? Or, perhaps: how much programming with `head` do we expect to see, by contrast with direct pattern-matching defns?

File: src/Data/Vec/Properties.agda [hunk 2]
```diff
@@ -224,6 +224,12 @@ lookup⇒[]= (suc i) (_ ∷ xs) p    = there (lookup⇒[]= i xs p)
...
+
+lookup-tail : ∀ {i} → lookup xs (suc i) ≡ lookup (tail xs) i
```
Comment (jamesmckinna) [inline src/Data/Vec/Properties.agda]: Should we maybe consider lifting `i` out as a `variable` declaration?

File: src/Data/Vec/Properties.agda [hunk 3]
```diff
@@ -224,6 +224,12 @@ lookup⇒[]= (suc i) (_ ∷ xs) p    = there (lookup⇒[]= i xs p)
...
+lookup-tail {xs = x ∷ xs} = refl
```
Comment (jamesmckinna) [inline src/Data/Vec/Properties.agda]: Ditto.
```suggestion
lookup-tail {xs = _ ∷ _} = refl
```

Similar questions as above for `lookup-head` *mutatis mutandis*.

**Review by jamesmckinna — APPROVED** [review]
Happy enough with things as they are here, but with some questions to at least consider.

Also: `CHANGELOG`

File: src/Data/Vec/Properties.agda (hunk 1 above)
Comment (Taneb) [reply src/Data/Vec/Properties.agda]: * it doesn't infer very well. I made a second commit changing the vec argument to explicit yesterday but forgot to push it, oops
* I made this PR only because I was looking for them for an application where I was using things like `a :: xs ++ ys` and had found using `head` and `tail` more convenient than pattern matching

**Comment by Taneb** [comment]
I'm holding off adding a changelog for this and my other PRs until after 2.4 is released

**Comment by jamesmckinna** [comment]
> I'm holding off adding a changelog for this and my other PRs until after 2.4 is released

Yeah, but this is such low-hanging fruit that it could easily be a v2.4 contribution?

**Comment by MatthewDaggitt** [comment]
We've already made a release candidate for v2.4 and I'm very reluctant to add anything else to it.

File: CHANGELOG.md [hunk 4]
```diff
@@ -28,6 +28,12 @@ Non-backwards compatible changes
 Minor improvements
 ------------------
 
+* In `Data.Vec.Properties`:
+  ```agda
+  lookup-head : ∀ (xs : Vec A (suc n)) → lookup xs zero ≡ head xs
+  lookup-tail : ∀ (xs : Vec A (suc n)) {i} → lookup xs (suc i) ≡ lookup (tail xs) i
```
Comment (jamesmckinna) [inline CHANGELOG.md]: Do you need the quantifier prefixes here? Maybe it's more informative, but I always go to `src` files rather than trust the otherwise-only-indicative `CHANGELOG` content...?

File: CHANGELOG.md [hunk 5]
```diff
@@ -28,6 +28,12 @@ Non-backwards compatible changes
...
+  ```
+
```
Comment (jamesmckinna) [inline CHANGELOG.md]: Also, these belong under "Additions to existing modules", surely?

**Comment by jamesmckinna** [comment]
A couple of additional comments on `CHANGELOG`, after which I'd be happy to hit merge...

File: src/Data/Vec/Properties.agda [hunk 6]
```diff
@@ -224,6 +224,12 @@ lookup⇒[]= (suc i) (_ ∷ xs) p    = there (lookup⇒[]= i xs p)
   []=⇒lookup∘lookup⇒[]= (x ∷ xs) zero    refl = refl
   []=⇒lookup∘lookup⇒[]= (x ∷ xs) (suc i) p    = []=⇒lookup∘lookup⇒[]= xs i p
 
+lookup-head : ∀ (xs : Vec A (suc n)) → lookup xs zero ≡ head xs
+lookup-head (x ∷ xs) = refl
```
Comment (JacquesCarette) [inline src/Data/Vec/Properties.agda]: no need to name `xs` (nor `x` below)

**Review by JacquesCarette — CHANGES_REQUESTED** [review]

**Review by gallais — APPROVED** [review]

**Comment by jamesmckinna** [comment]
This all looks good to me now, so I'll enable `auto-merge` so that if @JacquesCarette toggles his review to `Accept`, then we can put this to bed.

**Review by JacquesCarette — APPROVED** [review]
I wonder what 'direction' these will be used, in practice. Too bad we can't mark functions in `stdlib` as 'experimental', meaning that there is no backward compatibility implied by their presence.

Wonder if we could get such a pragma, as a dual to deprecate.

**Comment by jamesmckinna** [comment]
> I wonder what 'direction' these will be used, in practice. Too bad we can't mark functions in `stdlib` as 'experimental', meaning that there is no backward compatibility implied by their presence.

Well, I suppose that, between releases, we always have the option to toggle the direction of equations, at the cost of fixing up the `CHANGELOG` and any downstream consequences... and in a `breaking` mentality, I might expect even breaking changes between v3.0 and v3.y, for sufficiently small y?
